US07262212B2
Sodium hydride (99 mg, 2.49 mmol) was added to a solution of 2-methyl-2-oxiranylmethyl toluene-4-sulfonate (500 mg, 2.37 mmol) in DMF (5 ml) while cooling in an ice-bath, and the mixture was stirred at room temperature for 1 hour. To which a solution of 1-(4-chlorobenzyl)imidazolidin-2-one (633 mg, 2.61 mmol) in DMF (5 ml) was added while cooling in an ice-bath, and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with diethyl ether twice. The extracts were combined, washed with water twice and then with brine, and dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/acetone=3/1) to afford 1-(4-chlorobenzyl)-3-(2-methyl-2-oxiranylmethyl)imidazolidin-2-one (399 mg, 60%) as a pale yellow oil.

reactant | Sodium hydride | 2.49 mmol, 99 mg | [H-].[Na+]
reactant | 2-methyl-2-oxiranylmethyl toluene-4-sulfonate | 2.37 mmol, 500 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC1(OC1)C)C | C11H14O4S
reactant | 1-(4-chlorobenzyl)imidazolidin-2-one | 2.61 mmol, 633 mg | ClC1=CC=C(CN2C(NCC2)=O)C=C1 | C10H11ClN2O
reactant | Water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(4-chlorobenzyl)-3-(2-methyl-2-oxiranylmethyl)imidazolidin-2-one | 399 mg, 60% | ClC1=CC=C(CN2C(N(CC2)CC2(OC2)C)=O)C=C1 | C14H17ClN2O2
